US08377968B2
Synthesis of N-((1-(2-(3-tert-butylureido)ethyl)piperidin-4-yl)methyl)-3,5-bis(trifluoromethyl)benzamide (Compound 72)
A solution of N-((1-(2-aminoethyl)piperidin-4-yl)methyl)-3,5-bis(trifluoromethyl)benzamide (25 mg, 0.063 mmol) in CH2Cl2 (1.5 mL) was treated with t-butyl isocyanate (30 mg, 0.13 mmol). The mixture was stirred overnight, treated with MeOH (1 mL). The solvent was removed in vacuo. The residue was purified by HiTOPs.

reactant | N-((1-(2-aminoethyl)piperidin-4-yl)methyl)-3,5-bis(trifluoromethyl)benzamide | 0.063 mmol, 25 mg | NCCN1CCC(CC1)CNC(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O | C17H21F6N3O
reactant | t-butyl isocyanate | 0.13 mmol, 30 mg | C(C)(C)(C)N=C=O | C5H9NO
reactant | MeOH | 1 mL | CO | CH4O
solvent | CH2Cl2 | 1.5 mL | C(Cl)Cl | CH2Cl2
product | N-((1-(2-(3-tert-butylureido)ethyl)piperidin-4-yl)methyl)-3,5-bis(trifluoromethyl)benzamide | C(C)(C)(C)NC(NCCN1CCC(CC1)CNC(C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)=O)=O | C22H30F6N4O2
